US05478842
Using an analogous procedure to that described in the portion of Example 6 which is concerned with the preparation of starting materials, 1,3-dibromobenzene was reacted with (2S)-2-methyltetrahydropyran-4-one to give (2S,4R)-4-hydroxy-4-(3-bromophenyl)-2-methyltetrahydropyran in 66% yield as an oil.

reactant | 1,3-dibromobenzene | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | (2S)-2-methyltetrahydropyran-4-one | C[C@@H]1OCCC(C1)=O | C6H10O2
product | (2S,4R)-4-hydroxy-4-(3-bromophenyl)-2-methyltetrahydropyran | 66% yield | O[C@]1(C[C@@H](OCC1)C)C1=CC(=CC=C1)Br | C12H15BrO2
